US07579359B2
A solution of ethoxyacetyl chloride (4.2 g, 34 mmol) in dichloromethane was added dropwise to a stirred solution of 3-amino-4-chloroquinoline (5.1 g, 29 mmol) in dichloromethane (75 mL), and the reaction was stirred for one hour at room temperature. Additional ethoxyacetyl chloride (0.5 g, 4 mmol) was added, and the reaction was stirred for 30 minutes and diluted with dichloromethane (75 mL). The resulting mixture was washed with saturated aqueous sodium bicarbonate (50 mL), dried over potassium carbonate, and filtered. Methanol was added to facilitate the filtration. The filtrate was concentrated under reduced pressure to provide 7.3 g of N-(4-chloroquinolin-3-yl)-2-ethoxyacetamide as a dark solid.

reactant | ethoxyacetyl chloride | 34 mmol, 4.2 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 3-amino-4-chloroquinoline | 29 mmol, 5.1 g | NC=1C=NC2=CC=CC=C2C1Cl | C9H7ClN2
reactant | ethoxyacetyl chloride | 4 mmol, 0.5 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | N-(4-chloroquinolin-3-yl)-2-ethoxyacetamide | 7.3 g | ClC1=C(C=NC2=CC=CC=C12)NC(COCC)=O | C13H13ClN2O2
